US08486952B2
To a solution of 2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (Preparation H) (400 mg, 1.413 mmol) in MeOH (14.100 mL) was added tert-butyl 4-methylpiperidin-4-ylcarbamate (303 mg, 1.413 mmol). The resulting mixture was stirred at RT for 7 days. At that time, the reaction mixture was concentrated in vacuo. Purification by flash chromatography (Silica, EtOAc/Hexanes) gave tert-butyl 1-(2-chloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-4-methylpiperidin-4-ylcarbamate (159 mg, 0.345 mmol, 24.41% yield) as a yellow foam. LC-MS (M+H)+=461.2. 1H NMR (500 MHz, MeOD) δ ppm 7.12-7.22 (2H, m), 6.98-7.09 (2H, m), 4.19 (3H, d, J=2.14 Hz), 3.38-3.56 (2H, m), 3.13-3.25 (1H, m), 3.02-3.13 (1H, m), 2.53-2.67 (1H, m), 2.11-2.24 (2H, m), 1.96-2.08 (1H, m), 1.53-1.65 (2H, m), 1.47 (9H, s), 1.37 (3H, s).

reactant | 2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 1.413 mmol, 400 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)Cl | C13H9Cl2FN2
reactant | tert-butyl 4-methylpiperidin-4-ylcarbamate | 1.413 mmol, 303 mg | CC1(CCNCC1)NC(OC(C)(C)C)=O | C11H22N2O2
solvent | MeOH | 14.100 mL | CO | CH4O
product | tert-butyl 1-(2-chloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-4-methylpiperidin-4-ylcarbamate | 0.345 mmol, 159 mg, 24.41% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)N2CCC(CC2)(C)NC(OC(C)(C)C)=O | C24H30ClFN4O2
